US04389409
1-(α-Allylthio-2,4-dichlorophenethyl) imidazole
To a solution of 1.08 g (0.02 mole) of sodium methoxide in 50 ml of methanol was added 1.48 g (0.02 mole) of allyl mercaptan. To this solution was added a solution of 3.12 g (0.01 mole) of 1-(α-chloro-2,4-dichlorophenethyl) imidazole hydrochloride as prepared in Examples 1A to 1C, in 50 ml of methanol. The mixture was heated at reflux for 5 hours, cooled, and poured into 400 ml of H2O. The organic phase was extracted with ether, the combined ether extracts washed with H2O, and dried over MgSO4. Evaporation gave a dark brown oil. The oil was dissolved in a minimum of acetone and treated with an excess of HCl in isopropyl alcohol. Addition of ether caused a gummy solid to separate. Trituration of the gum with ether converted it to a solid that was recrystallized from ethanol-ether with a charcoal treatment. The product, 0.6 g (19%), was a white crystalline solid, m.p. 97°-102° C.

reactant | sodium methoxide | 0.02 mole, 1.08 g | C[O-].[Na+]
reactant | allyl mercaptan | 0.02 mole, 1.48 g | C(C=C)S | C3H6S
reactant | 1-(α-chloro-2,4-dichlorophenethyl) imidazole hydrochloride | 0.01 mole, 3.12 g | Cl.ClC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
solvent | H2O | 400 ml | O | H2O
product | 1-(α-Allylthio-2,4-dichlorophenethyl) imidazole | C(C=C)SC(CC1=C(C=C(C=C1)Cl)Cl)N1C=NC=C1 | C14H14Cl2N2S
